US05635509
b. 5-[(1RS,2SR)-2-(3,4-Dichlorophenyl)-1-phenylcarbamoyloxy-4-oxobutyl]-1-phenyl-1,2,3-(1H)-triazole
To a stirred solution of 5-[(1RS,2SR)-2-(3,4-dichlorophenyl)-1-phenylcarbamoyloxy-4-pentenyl]-1-phenyl-1,2,3-(1H)-triazole (1.0 g) in diethyl ether (4 mL), water (4 mL), and tetrahydrofuran (2 mL) was added a solution of 0.16M osmium tetroxide in water (0.22 mL). After 5 minutes sodium periodate (0.96 g) was added portionwise. After 2 hours at room temperature water was added to the reaction mixture until most of the solids dissolve. The mixture was extracted with ethyl acetate (2×50 mL); the combined organic layers dried, filtered, and the solvent evaporated to yield crude product as an oil. Chromatography, with dichloromethane:ethyl acetate (9:1) as the eluent gave the title compound 0.65 g (65%) as a white solid; NMR: 3.12 (d,2), 3.71-3.75 (m,1), 5.84 (d,1) 6.8 (dd,1), 7.03 (t,1), 7.17-7.57 (m,11), 8.01 (s,1), 9.54 (s,1); MS (CI, CH4): 495(M+1).

reactant | 5-[(1RS,2SR)-2-(3,4-dichlorophenyl)-1-phenylcarbamoyloxy-4-pentenyl]-1-phenyl-1,2,3-(1H)-triazole | 1.0 g | ClC=1C=C(C=CC1Cl)C(C(OC(NC1=CC=CC=C1)=O)C1=CN=NN1C1=CC=CC=C1)CC=C | C26H22Cl2N4O2
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | sodium periodate | 0.96 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
solvent | water | 4 mL | O | H2O
solvent | water | 0.22 mL | O | H2O
catalyst | osmium tetroxide | 0.16M | [Os](=O)(=O)(=O)=O
product | 5-[(1RS,2SR)-2-(3,4-Dichlorophenyl)-1-phenylcarbamoyloxy-4-oxobutyl]-1-phenyl-1,2,3-(1H)-triazole | 0.65 g, 65% | ClC=1C=C(C=CC1Cl)C(C(OC(NC1=CC=CC=C1)=O)C1=CN=NN1C1=CC=CC=C1)CC=O | C25H20Cl2N4O3
